US07250440B2
5-Chloro-1-(4-methoxymethyloxyphenyl)-2-methyl-1H-indole
5-Chloro-2-methylindole (4.14 g, 25 mmol) and 4-methoxymethyloxy iodobenzene (6.20 g, 25 mmol) were reacted according to the procedure used in Example 1a above to afford a colorless liquid (19%): 1H NMR (DMSO-d6): δ 2.25 (3H, s), 3.44 (2H, s), 5.28 (2H, s), 6.40 (1H, s), 6.96 (1H, d, J=8.8 Hz), 7.02 (1H, dd, J=2.0 Hz, J=8.8 Hz), 7.22 (2H, d, J=8.8 Hz), 7.36 (2H, d, J=8.8 Hz), 7.55 (1H, d, J=2.0 Hz); MS m/z (M+H)+ 302/304 (1 Cl). Anal. for C17H16ClN02: Calc'd: C, 67.66; H, 5.34; N, 4.64. Found: C, 67.49; H, 5.17; N, 4.51.

reactant | 5-Chloro-2-methylindole | 25 mmol, 4.14 g | ClC=1C=C2C=C(NC2=CC1)C | C9H8ClN
reactant | 4-methoxymethyloxy iodobenzene | 25 mmol, 6.20 g | COCOC1=CC=C(C=C1)I | C8H9IO2
product | 5-Chloro-1-(4-methoxymethyloxyphenyl)-2-methyl-1H-indole | 19% | ClC=1C=C2C=C(N(C2=CC1)C1=CC=C(C=C1)OCOC)C | C17H16ClNO2
